US07855290B2
Alternative Method B for Synthesis of 4-(3-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridine-2-carboxamide
To a suspension of 1-[4-(2-carbamoylpyridin-4-yl)oxy-2-fluorophenylaminocarbonyl]cyclopropanecarboxylic acid (743 mg) and 4-fluoroaniline (459 mg) in tetrahydrofuran (30 ml) was added 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (1.22 g), followed by stirring at room temperature for 7.5 hr. The reaction mixture was partitioned between ethyl acetate and an aqueous solution of sodium hydrogencarbonate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure, and the resultant residue was suspended by addition of tert-butyl methyl ether—ethyl acetate (1:1, 20 ml). The solid was collected by filtration and dried under aeration to provide the titled compound as a white solid (815 mg, 87%).

reactant | 1-[4-(2-carbamoylpyridin-4-yl)oxy-2-fluorophenylaminocarbonyl]cyclopropanecarboxylic acid | 743 mg | C(N)(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)O)F | C17H14FN3O5
reactant | 4-fluoroaniline | 459 mg | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate | 1.22 g | O.[Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(3-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridine-2-carboxamide | 815 mg, 87% | FC=1C=C(OC2=CC(=NC=C2)C(=O)N)C=CC1NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O | C23H18F2N4O4
